US09034900B2
N-[3-(1-methyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide
A mixture of 5-bromo-1-methylpyridin-2-one (100 mg, 0.532 mmol), [3-(methanesulfonamido)phenyl]boronic acid (171.1 mg, 0.798 mmol), KOAc (130.0 mg, 1.326 mmol) and Pd(dppf)Cl2 (38.9 mg, 0.05 mmol) in dioxane/H2O (2 mL/0.5 mL) was stirred at 90° C. for 20 min. The mixture was concentrated and the residue was purified by column chromatography on silica gel (PE:EA=1:1) to give the title compound (30.0 mg, 20%) as a brown solid. 1H NMR (CDCl3, 400 MHz) δ 7.65-7.60 (dd, J1=7.6 Hz, J2=2.4 Hz, 1H), 7.54 (d, J=2.4 Hz, 1H), 7.41 (t, J=8.0 Hz, 1H), 7.33 (s, 1H), 7.24 (d, J=7.6 Hz, 1H), 7.17 (d, J=7.6 Hz, 1H), 6.86 (brs, 1H), 6.67 (d, J=9.2 Hz, 1H), 3.65 (s, 3H), 3.05 (s, 3H). LCMS (M+H)+ 279.

reactant | 5-bromo-1-methylpyridin-2-one | 0.532 mmol, 100 mg | BrC=1C=CC(N(C1)C)=O | C6H6BrNO
reactant | [3-(methanesulfonamido)phenyl]boronic acid | 0.798 mmol, 171.1 mg | CS(=O)(=O)NC=1C=C(C=CC1)B(O)O | C7H10BNO4S
reactant | KOAc | 1.326 mmol, 130.0 mg | CC(=O)[O-].[K+]
solvent | dioxane H2O | 2 mL | O1CCOCC1.O
catalyst | Pd(dppf)Cl2 | 0.05 mmol, 38.9 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-[3-(1-methyl-6-oxopyridin-3-yl)phenyl]methanesulfonamide | 30.0 mg, 20% | CN1C=C(C=CC1=O)C=1C=C(C=CC1)NS(=O)(=O)C | C13H14N2O3S
